US05932599
0.15 g (0.00063 mol) of N-[3-(acetyl-methyl-amino)-5-amino-phenyl]-N-methyl-acetamide was dissolved in 3 ml of pyridine, treated with 0.154 g (0.00064 mol) of 4-acetamino-benzene-sulfochloride and stirred at room temperature for 16 hours. Subsequently, the mixture was freed from solvent, the residue was taken up in 25 ml of water, extracted four times with 200 ml of ethyl acetate each time and the combined organic phases were washed with saturated sodium chloride solution and dried over sodium sulfate. After removal of the solvent the residue was chromatographed on silica gel, firstly with 2% and then 5% methanol in dichloromethane. There was obtained 0.15 g (55%) of N-[3-(4-acetylamino-phenylsulfonylamino)-5-(acetyl-methyl-amino)-phenyl]-N-methyl-acetamide as an orange colored, amorphous solid. MS (ISN): me/e=431 (C20H23N4O5S-).

reactant | N-[3-(acetyl-methyl-amino)-5-amino-phenyl]-N-methyl-acetamide | 0.00063 mol, 0.15 g | C(C)(=O)N(C=1C=C(C=C(C1)N)N(C(C)=O)C)C | C12H17N3O2
reactant | 4-acetamino-benzene sulfochloride | 0.00064 mol, 0.154 g | N(C(=O)C)C1=CC=CC=C1.S(=O)(=O)(O)Cl
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 25 ml | O | H2O
product | N-[3-(4-acetylamino-phenylsulfonylamino)-5-(acetyl-methyl-amino)-phenyl]-N-methyl-acetamide | 0.15 g, 55% | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=C(C1)N(C)C(C)=O)N(C(C)=O)C | C20H24N4O5S
